* C:\Users\austi\OneDrive\Documents\EE333-Project1\ProjectDraft.asc
XU1 -6V N001 N002 N007 NC_01 N001 NC_02 +6V NE555
XU6 N002 single_pole_triple_throw_switch single_pole_triple_throw_switch +6V -6V LT1815
XU7 0 N005 load +6V -6V LT1815
L1 120VAC COM 100µ
V1 120VACH COM SINE(0 120 60)
R1 N001 N007 1000k
R2 120VAC 120VACH 1
XU8 0 N003 N004 +6V -6V LT1815
R7 0 load 5k
R8 N004 N003 1k
R9 triangle_wave N003 1k
L2 Transformer_High 0 250µ
L3 0 Transformer_Low 250µ
D1 Transformer_High +6V D
D2 Transformer_Low +6V D
D3 -6V Transformer_Low D
D4 -6V Transformer_High D
C2 0 -6V 10m
C3 0 +6V 10m
XU2 0 N008 N006 +6V -6V LT1815
C1 N006 N008 200n
R4 N008 N002 25k
XU3 0 N012 N001 +6V -6V LT1815
R5 N001 N012 1k
R10 N012 N006 1k
XU5 0 N010 triangle_wave +6V -6V LT1815
R3 N010 N001 1k
R11 triangle_wave N010 2.5k
R6 N011 triangle_wave 100k
C4 N011 0 200n
XU9 0 N009 sine_wave +6V -6V LT1815
R12 N009 N011 10k
R13 sine_wave N009 250k
R16 load N005 1k
R18 +6V N005 500
R19 N005 N004 1k
R14 N005 -6V 500
.model D D
.lib C:\Users\austi\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.dio
K L1 L2 L3 1
.tran 0 100m 0 0.001
.lib LTC2.LIB
.lib NE555.sub
.backanno
.end
